US06448242B1
Preparation of 2,6-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]pyridine dihydrochloride
Concentrated hydrochloric acid (0.080 ml; 0.96 mmol) was added to a solution of 2,6-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]pyridine (157 mg; 0.19 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methanol-diethyl ether to obtain the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.96 mmol, 0.080 ml | Cl | ClH
reactant | 2,6-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]pyridine | 0.19 mmol, 157 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CC2=NC(=CC=C2)CN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | C47H53N5O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2,6-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]pyridine dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CC2=NC(=CC=C2)CN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | InChI=1S/C47H53N5O8.2ClH/c1-55-40-26-36(27-41(56-2)44(40)59-5)32-10-14-34(15-11-32)46(53)51-22-18-49(19-23-51)30-38-8-7-9-39(48-38)31-50-20-24-52(25-21-50)47(54)35-16-12-33(13-17-35)37-28-42(57-3)45(60-6)43(29-37)58-4;;/h7-17,26-29H,18-25,30-31H2,1-6H3;2*1H
